.SubCkt GJ821BR71H105KA12 [_net1] [_net2]
.param K01=9.4291e-07
.param M01=5.0000e+08
.param L02=1.7502e-10
.param M03=4.1236e-03
.param K04=2.4078e-04
.param M04=8.7718e+00
.param K05=2.4638e-04
.param M05=1.2974e+00
.param K06=1.6533e-04
.param M06=2.4342e-01
.param K07=1.5059e-04
.param M07=2.8635e-02
.param K08=1.4421e-04
.param M08=4.3009e-03
.param L09=2.4864e-11
.param M09=5.1756e-02
.param L10=2.2406e-10
.param M10=3.7593e-02
.param K11=3.0522e-06
.param L11=5.5058e-11
.param M11=2.0606e-02
.param K12=1.9617e-06
.param L12=4.2868e-11
.param M12=1.9014e-02
.param K13=1.8054e-11
.param L13=5.0221e-11
.param M13=5.1989e+00
.param K14=5.9559e-12
.param L14=5.6246e-11
.param M14=3.8434e+00
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
R08 _net0708 _net0809 {M08}
L09 _net0809 _net0910 {L09}
R09 _net0809 _net0910 {M09}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
C11 _net1011 _net1112 {K11}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
C12 _net1112 _net1213 {K12}
L12 _net1112 _net1213 {L12}
R12 _net1112 _net1213 {M12}
C13 _net1213 _net1314 {K13}
L13 _net1213 _net1314 {L13}
R13 _net1213 _net1314 {M13}
C14 _net1314 _net2 {K14}
L14 _net1314 _net2 {L14}
R14 _net1314 _net2 {M14}
.ends GJ821BR71H105KA12
