.SubCkt GJ831CC81E105KA01 [_net1] [_net2]
.param K01=9.4851e-07
.param M01=5.0000e+08
.param L02=6.2946e-12
.param M03=6.5789e-03
.param K04=5.2838e-04
.param M04=5.9122e+00
.param K05=6.9871e-04
.param M05=8.0186e-01
.param K06=5.5502e-04
.param M06=1.4634e-01
.param K07=6.3125e-04
.param M07=2.3631e-02
.param K08=3.1257e-04
.param M08=8.6605e-03
.param L09=4.9667e-11
.param M09=6.6944e-02
.param L10=3.3029e-10
.param M10=4.3648e-02
.param K11=3.2716e-06
.param L11=7.8849e-11
.param M11=1.3412e-02
.param K12=1.7559e-06
.param L12=6.4660e-11
.param M12=1.3239e-02
.param K13=5.1346e-12
.param L13=1.5581e-10
.param M13=2.4635e+01
.param K14=1.1084e-12
.param L14=3.1658e-10
.param M14=4.1690e+01
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
R08 _net0708 _net0809 {M08}
L09 _net0809 _net0910 {L09}
R09 _net0809 _net0910 {M09}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
C11 _net1011 _net1112 {K11}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
C12 _net1112 _net1213 {K12}
L12 _net1112 _net1213 {L12}
R12 _net1112 _net1213 {M12}
C13 _net1213 _net1314 {K13}
L13 _net1213 _net1314 {L13}
R13 _net1213 _net1314 {M13}
C14 _net1314 _net2 {K14}
L14 _net1314 _net2 {L14}
R14 _net1314 _net2 {M14}
.ends GJ831CC81E105KA01

.SubCkt GJ831CR71H475KA12 [_net1] [_net2]
.param K01=4.2626e-06
.param M01=1.0638e+08
.param L02=2.2757e-10
.param M03=2.9929e-03
.param K04=8.2287e-04
.param M04=3.6680e+00
.param K05=8.0192e-04
.param M05=5.4507e-01
.param K06=8.1433e-04
.param M06=7.1665e-02
.param K07=9.1927e-04
.param M07=1.1702e-02
.param K08=6.2530e-04
.param M08=1.9181e-03
.param L09=9.2702e-12
.param M09=3.7432e-02
.param L10=5.5584e-11
.param M10=3.7156e-02
.param L11=4.7814e-10
.param M11=2.5800e-02
.param K12=1.3141e-05
.param L12=1.0625e-10
.param M12=1.0870e-02
.param K13=8.8967e-06
.param L13=7.2701e-11
.param M13=9.1423e-03
.param K14=2.2272e-11
.param L14=5.4885e-11
.param M14=4.1608e+00
.param K15=2.6211e-12
.param L15=1.3280e-10
.param M15=1.9432e+01
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
R08 _net0708 _net0809 {M08}
L09 _net0809 _net0910 {L09}
R09 _net0809 _net0910 {M09}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
C12 _net1112 _net1213 {K12}
L12 _net1112 _net1213 {L12}
R12 _net1112 _net1213 {M12}
C13 _net1213 _net1314 {K13}
L13 _net1213 _net1314 {L13}
R13 _net1213 _net1314 {M13}
C14 _net1314 _net1415 {K14}
L14 _net1314 _net1415 {L14}
R14 _net1314 _net1415 {M14}
C15 _net1415 _net2 {K15}
L15 _net1415 _net2 {L15}
R15 _net1415 _net2 {M15}
.ends GJ831CR71H475KA12

.SubCkt GJ831CR61E106KE83 [_net1] [_net2]
.param K01=1.0112e-05
.param M01=5.0000e+06
.param L02=8.5316e-11
.param M03=2.2662e-03
.param K04=2.4013e-03
.param M04=8.3334e-01
.param K05=2.5269e-03
.param M05=1.3108e-01
.param K06=2.0971e-03
.param M06=2.2705e-02
.param K07=1.9058e-03
.param M07=3.6050e-03
.param L08=1.0354e-11
.param M08=3.0600e-02
.param L09=5.8217e-11
.param M09=2.8195e-02
.param L10=5.3530e-10
.param M10=1.7352e-02
.param K11=2.8799e-05
.param L11=1.2043e-10
.param M11=6.5713e-03
.param K12=2.2778e-05
.param L12=7.3844e-11
.param M12=5.7405e-03
.param K13=2.1415e-11
.param L13=4.7055e-11
.param M13=6.3580e+00
.param K14=2.4341e-12
.param L14=1.4822e-10
.param M14=2.0661e+01
.param K15=1.9806e-12
.param L15=1.2539e-10
.param M15=2.2959e+01
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
L08 _net0708 _net0809 {L08}
R08 _net0708 _net0809 {M08}
L09 _net0809 _net0910 {L09}
R09 _net0809 _net0910 {M09}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
C11 _net1011 _net1112 {K11}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
C12 _net1112 _net1213 {K12}
L12 _net1112 _net1213 {L12}
R12 _net1112 _net1213 {M12}
C13 _net1213 _net1314 {K13}
L13 _net1213 _net1314 {L13}
R13 _net1213 _net1314 {M13}
C14 _net1314 _net1415 {K14}
L14 _net1314 _net1415 {L14}
R14 _net1314 _net1415 {M14}
C15 _net1415 _net2 {K15}
L15 _net1415 _net2 {L15}
R15 _net1415 _net2 {M15}
.ends GJ831CR61E106KE83

.SubCkt GJ8319R61H225KA12 [_net1] [_net2]
.param K01=2.2340e-06
.param M01=2.2727e+08
.param L02=2.6064e-10
.param M03=3.6072e-03
.param K04=2.5029e-04
.param M04=2.4336e+01
.param K05=4.5574e-04
.param M05=1.8308e+00
.param K06=3.4106e-04
.param M06=3.1081e-01
.param K07=3.7132e-04
.param M07=2.7542e-02
.param K08=4.0845e-04
.param M08=3.6936e-03
.param K09=6.9169e-04
.param M09=1.5869e-04
.param L10=3.5056e-11
.param M10=6.2395e-02
.param L11=2.8579e-10
.param M11=2.9861e-02
.param K12=8.6401e-06
.param L12=5.2036e-11
.param M12=1.0564e-02
.param K13=2.4733e-06
.param L13=7.6468e-11
.param M13=1.3694e-02
.param K14=2.1042e-11
.param L14=5.0486e-11
.param M14=5.0230e+00
.param K15=5.2177e-12
.param L15=7.2926e-11
.param M15=1.0791e+01
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
R08 _net0708 _net0809 {M08}
C09 _net0809 _net0910 {K09}
R09 _net0809 _net0910 {M09}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
C12 _net1112 _net1213 {K12}
L12 _net1112 _net1213 {L12}
R12 _net1112 _net1213 {M12}
C13 _net1213 _net1314 {K13}
L13 _net1213 _net1314 {L13}
R13 _net1213 _net1314 {M13}
C14 _net1314 _net1415 {K14}
L14 _net1314 _net1415 {L14}
R14 _net1314 _net1415 {M14}
C15 _net1415 _net2 {K15}
L15 _net1415 _net2 {L15}
R15 _net1415 _net2 {M15}
.ends GJ8319R61H225KA12
