.SubCkt GJ832ER7YA106KA12 _net1 _net2
.param K01=9.1402e-06
.param M01=5.0000e+07
.param L02=1.7378e-10
.param M03=1.4589e-03
.param K04=1.4270e-03
.param M04=3.2476e+00
.param K05=1.5047e-03
.param M05=3.3451e-01
.param K06=1.4431e-03
.param M06=4.1538e-02
.param K07=3.2865e-03
.param M07=2.9301e-03
.param K08=1.6744e-03
.param M08=1.6860e-03
.param L09=2.2540e-11
.param M09=5.1827e-02
.param L10=4.9034e-10
.param M10=1.6831e-02
.param L11=3.4472e-11
.param M11=9.9538e-03
.param K12=1.6177e-05
.param L12=1.7341e-10
.param M12=1.7644e-02
.param K13=1.7018e-05
.param L13=7.0936e-11
.param M13=9.3360e-03
.param K14=3.0813e-12
.param L14=1.1251e-10
.param M14=1.3113e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net2 'K14'
L14 _net1314 _net2 'L14'
R14 _net1314 _net2 'M14'
.ends 
